US04304770
A mixture of 2-ethoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (7.2 g.), conc. hydrochloric acid (10 ml.), ethanol (70 ml.) and tetrahydrofuran (20 ml.) was stirred for 2 hours at ambient temperature. After removing the solvent from the reaction mixture in vacuo, water was added thereto and the mixture was adjusted to pH 3.3 with an aqueous solution of sodium bicarbonate under ice-cooling. Precipitates were collected by filtration and dried to give 2-ethoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (4.6 g).

reactant | 2-ethoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 7.2 g | C(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C10H11N3O6S
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-ethoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetic acid | 4.6 g | C(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)N | C9H11N3O5S
